US06537948B1
A mixture of 0.34 g of 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine, 0.11 g of potassium carbonate and 2 ml methanol was stirred for 1 hour at room temperature. The reaction solution was poured into water, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 190 mg of 3-hydroxy-2-{1-(methoxycarbonyl)ethoxy}pyridine.

reactant | 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine | 0.34 g | C(C)(=O)OC=1C(=NC=CC1)OC(C)C(=O)OC | C11H13NO5
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 3-hydroxy-2-{1-(methoxycarbonyl)ethoxy}pyridine | 190 mg | OC=1C(=NC=CC1)OC(C)C(=O)OC | C9H11NO4
